US07084178B2
cis-2-[(4-Chlorobenzenesulfonyl)-(4-cyano-benzyl)-amino]-cycloheptanecarboxylic acid amide.
The titled compound (6.4 mg) was prepared in 3% yield from cis-2-(4-chlorobenzenesulfonylamino)-cycloheptanecarboxylic acid amide (150 mg, 0.45 mmol) and 4-bromomethyl-benzonitrile according to the N-alkylation procedure described in Example 11: 1H NMR (DMSO-d6) δ 7.84 (m, 3 H), 7.69 (m, 4 H), 7.50 (d, 1 H, J=8.0 Hz), 7.31 (s br, 1 H), 6.65 (s br, 1 H), 4.60 (AB2,2 H,Δv=16,Jab=96 Hz), 3.93 (m, 1 H), 2.79 (m, 1 H), 2.24 (m, 1 H), 1.72 (m, 2 H), 1.31 (m, 7 H).

reactant | cis-2-(4-chlorobenzenesulfonylamino)-cycloheptanecarboxylic acid amide | 0.45 mmol, 150 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1[C@@H](CCCCC1)C(=O)N | C14H19ClN2O3S
reactant | 4-bromomethyl-benzonitrile | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
product | cis-2-[(4-Chlorobenzenesulfonyl)-(4-cyano-benzyl)-amino]-cycloheptanecarboxylic acid amide | 6.4 mg, 3% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H]1[C@@H](CCCCC1)C(=O)N)CC1=CC=C(C=C1)C#N | C22H24ClN3O3S
